US04204991
10.0 g of t-butoxycarbonylsarcosylnitroarginylvalyltyrosine methyl ester is dissolved in 30 ml of methanol. To this solution is added 60 ml of 1 N lithium hydroxide. The reaction mixture is stirred for three hours, then neutralized with 1 N hydrochloric acid to pH 7. The solvent is removed by vacuum and the residue is dissolved in N,N-dimethylformamide. The solution is filtered and the solvent removed by vacuum. The residue is dissolved in methanol/2-propanol. The alcohol solution is added to 1 liter of cold rapidly stirring ethyl ether. The white precipitate is filtered and dried in vacuo to afford t-butoxycarbonylsarcosylnitroarginylvalyltyrosine.

reactant | t-butoxycarbonylsarcosylnitroarginylvalyltyrosine methyl ester | 10.0 g | COC([C@@H](NC([C@@H](NC([C@@H](N([N+](=O)[O-])C(CN(C)C(=O)OC(C)(C)C)=O)CCCNC(N)=N)=O)C(C)C)=O)CC1=CC=C(C=C1)O)=O | C29H46N8O10
reactant | lithium hydroxide | 1 N, 60 ml | [OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | t-butoxycarbonylsarcosylnitroarginylvalyltyrosine | C(C)(C)(C)OC(=O)N(C)CC(=O)N([C@@H](CCCNC(N)=N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)[N+](=O)[O-] | C28H44N8O10
